US07585885B2
5-Acetylamino-N-methyl-N-propyl-isophthalamic acid methyl ester
Dissolve 5-amino-N-methyl-N-propyl-isophthalamic acid methyl ester (1.64 g, 6.55 mmol) in dichloromethane (20 mL) and add triethylamine (0.993 g, 9.83 mmol), then acetyl chloride (772 mg, 9.83 mmol). Stir at room temperature for 1 h, add N,N-dimethylamino propylamine (0.5 mL), stir 10 min, dilute with dichloromethane, wash with 1 N HCl and saturated aqueous sodium chloride. Dry (magnesium sulfate), filter and concentrate to give the title compound as a solid.

reactant | 5-amino-N-methyl-N-propyl-isophthalamic acid methyl ester | 6.55 mmol, 1.64 g | COC(C1=CC(C(=O)N(CCC)C)=CC(=C1)N)=O | C13H18N2O3
reactant | triethylamine | 9.83 mmol, 0.993 g | C(C)N(CC)CC | C6H15N
reactant | acetyl chloride | 9.83 mmol, 772 mg | C(C)(=O)Cl | C2H3ClO
reactant | N,N-dimethylamino propylamine | 0.5 mL | CNN(NC)CCC | C5H15N3
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | 5-Acetylamino-N-methyl-N-propyl-isophthalamic acid methyl ester | COC(C1=CC(C(=O)N(CCC)C)=CC(=C1)NC(C)=O)=O | C15H20N2O4
